US05593464
Preparation of lithium N,N-dimethyl-2-aminomethylene-4-methylphenoxide
N,N-Dimethyl-2-aminomethylene-4-methylpheno1 (11.5 g, 57.8 mmol as 97.3% pure), was added slowly to n-BuLi (44 ml of a 1.6M solution in hexane, 70.25 mmol) in toluene (30 ml). A very exothermic reaction occurred and the mixture was cooled whilst addition was taking place. A clear straw coloured solution resulted, which was continually stirred until the temperature dropped to ambient. Solvent was next removed until a white precipitate formed. From which recrystallisation from hexane by refrigeration (12 h) caused large pyramidal crystals to form.

reactant | N,N-Dimethyl-2-aminomethylene-4-methylpheno1 | 57.8 mmol, 11.5 g | CN(C)C=C1C(C=CC(=C1)C)O | C10H15NO
reactant | n-BuLi | [Li]CCCC
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | lithium N,N-dimethyl-2-aminomethylene-4-methylphenoxide | CN(C)C=C1C([O-])C=CC(=C1)C.[Li+] | InChI=1S/C10H14NO.Li/c1-8-4-5-10(12)9(6-8)7-11(2)3;/h4-7,10H,1-3H3;/q-1;+1
